US04069221
4.0 Parts of 1-chloro-3-(1-naphthoxy)-2-propanol and 16.0 parts of 4-cyanopiperidine are heated in a sealed vessel for 10 hours at about 100° C. That reaction mixture is then diluted with 50 parts of water, acidified with concentrated hydrochloric acid, and extracted with 35 parts of ethyl ether. The aqueous phase is separated and made alkaline with the addition of 10 N sodium hydroxide. The resultant solid is filtered and converted to the hydrochloride salt by redissolving the solid in isopropanol and adding a solution of hydrochloric acid in isopropanol. The resulting salt is separated by filtration and crystallized from a mixture of ethanol and ethyl ether to give 3-(4-cyanopiperidino)-1-(1-naphthoxy)-2-propanol hydrochloride, identical to the product of Example 1.

reactant | 1-chloro-3-(1-naphthoxy)-2-propanol | ClCC(COC1=CC=CC2=CC=CC=C12)O | C13H13ClO2
reactant | 4-cyanopiperidine | C(#N)C1CCNCC1 | C6H10N2
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 3-(4-cyanopiperidino)-1-(1-naphthoxy)-2-propanol hydrochloride | Cl.C(#N)C1CCN(CC1)CC(COC1=CC=CC2=CC=CC=C12)O | InChI=1S/C19H22N2O2.ClH/c20-12-15-8-10-21(11-9-15)13-17(22)14-23-19-7-3-5-16-4-1-2-6-18(16)19;/h1-7,15,17,22H,8-11,13-14H2;1H
